US04957935
Preparation of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(N-ethylamino)-3-(1-trifluoromethylethyl)-1H-1,2,4-triazole (Compound No. 11)
7.8 g (0.02 mol) of 2-trifluoromethylpropionyl chloride 2,6-dichloro-4-trifluoromethylphenylhydrazone and 1.5 g (0.022 mol) of ethyl cyanamide were dissolved in 50 ml of tetrahydrofuran, and 2.5 g (0.025 mol) of triethylamine was dropwise added thereto under stirring and cooling with ice. After completion of the dropwise addition, the stirring was continued at room temperature for 3 hours. The solvent was distilled off under reduced pressure. The residue was dissolved in hexane, and the organic layer was washed with water and dried over anhydrous magnesium sulfate. Then, hexane was distilled off under reduced pressure. Further, the residue was subjected to distillation under reduced pressure. The fraction having a boiling point of 110°-120° C./0.1-0.2 mmHg was subjected to recrystallization from hexane to obtain 5.8 g (yield: 69%) of the desired compound having a melting point of from 82° to 83° C. as slightly yellow prismatic crystals.

reactant | 2-trifluoromethylpropionyl chloride 2,6-dichloro-4-trifluoromethylphenylhydrazone | 0.02 mol, 7.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C(C)C(F)(F)F)Cl | C11H7Cl3F6N2
reactant | ethyl cyanamide | 0.022 mol, 1.5 g | C(C)NC#N | C3H6N2
reactant | triethylamine | 0.025 mol, 2.5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(N-ethylamino)-3-(1-trifluoromethylethyl)-1H-1,2,4-triazole | 5.8 g, yield: 69% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(N=C1NCC)C(C)C(F)(F)F | C14H12Cl2F6N4
